US09062075B2
Intermediate-14.8: Synthesis of 6-bromo-N-(tert-butyl)-2-oxo-2,4-dihydro-1H-spiro[[1,8]naphthyridine-3,4′-piperidine]-1′-carboxamide
To a stirred solution of 6-bromo-1H-spiro[[1,8]naphthyridine-3,4′-piperidin]-2(4H)-one 2,2,2-trifluoroacetate (Intermediate-14) (500 mg, 1.22 mmol) in DMSO (5 mL) were added triethylamine (370 mg, 3.66 mmol) and phenyl tert-butylcarbamate (490 mg, 2.44 mmol) at 20-35° C. and the reaction mixture was allowed to stir at 70° C. for 16 h. Then the reaction mixture was diluted with water (100 mL) and extracted with DCM (2×100 mL). The organic layer was washed with brine (100 mL), dried over anhydrous Na2SO4 and filtered. The filtrate was rotary evaporated under vacuum to get residue which was purified by column chromatography using mixture of 2% methanol/dichloromethane as an eluent to get the desired compound as an off-white solid (250 mg, 52%); 1H NMR (400 MHz, DMSO-d6) δ 10.67 (s, 1H), 8.22 (d, J=2.5 Hz, 1H), 7.87 (d, J=2.0 Hz, 1H), 5.74 (d, J=10.5 Hz, 1H), 3.52 (dt, J=4.4 Hz, 9.5 Hz, 2H), 3.16-3.08 (m, 2H), 2.95 (s, 2H), 1.73-1.65 (m, 2H), 1.34-1.23 (m, 11H); LC-MS: 397.2 (M+1)+.

reactant | 6-bromo-1H-spiro[[1,8]naphthyridine-3,4′-piperidin]-2(4H)-one 2,2,2-trifluoroacetate | 1.22 mmol, 500 mg | FC(C(=O)O)(F)F.BrC=1C=C2CC3(CCNCC3)C(NC2=NC1)=O
reactant | triethylamine | 3.66 mmol, 370 mg | C(C)N(CC)CC | C6H15N
reactant | phenyl tert-butylcarbamate | 2.44 mmol, 490 mg | C(C)(C)(C)NC(OC1=CC=CC=C1)=O | C11H15NO2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 6-bromo-N-(tert-butyl)-2-oxo-2,4-dihydro-1H-spiro[[1,8]naphthyridine-3,4′-piperidine]-1′-carboxamide | 250 mg, 52% | BrC=1C=C2CC3(CCN(CC3)C(=O)NC(C)(C)C)C(NC2=NC1)=O | C17H23BrN4O2
